US04670458
To a solution of 6.1 g of 1-chloro-1-nitrosocyclohexane in 135 ml of ethanol and 260 ml of carbon tetrachloride, cooled to -20° C. in an acetone-dry ice bath, was slowly added 33.6 ml of 1,3-cyclohexadiene. The mixture was stored at -20° C. for 6 days and the solid collected, giving 4.5 g of 2-oxa-3-azabicyclo[2.2.2]oct-5-ene, hydrochloride.

reactant | 1-chloro-1-nitrosocyclohexane | 6.1 g | ClC1(CCCCC1)N=O | C6H10ClNO
reactant | 1,3-cyclohexadiene | 33.6 ml | C1=CC=CCC1 | C6H8
solvent | ethanol | 135 ml | C(C)O | C2H6O
solvent | carbon tetrachloride | 260 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-oxa-3-azabicyclo[2.2.2]oct-5-ene, hydrochloride | 4.5 g | Cl.C12ONC(C=C1)CC2 | InChI=1S/C6H9NO.ClH/c1-3-6-4-2-5(1)7-8-6;/h1,3,5-7H,2,4H2;1H
